US07504411B2
Synthesis of 2-(2-(4-fluoro-2-methoxyphenyl)piperazin-4-yl)-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one dihydrochloride (No. XA468)
4N Hydrogen chloride in 1,4-dioxane (0.4 ml) was added to the solution of 2-(2-(4-fluoro-2-methoxyphenyl)piperazin-4-yl)-3-methyl-6-(4-pyridyl)-pyrimidin-4-one (217 mg, 0.6 mmol) in dichloromethane (5 ml) and stirred for 15 min. After addition of diethyl ether, filtration and wash with diethyl ether and dryness gave the title compound (260 mg, quant.).

reactant | Hydrogen chloride | 4N | Cl | ClH
reactant | 2-(2-(4-fluoro-2-methoxyphenyl)piperazin-4-yl)-3-methyl-6-(4-pyridyl)-pyrimidin-4-one | 0.6 mmol, 217 mg | FC1=CC(=C(C=C1)C1NCCN(C1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1)OC | C21H22FN5O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | 1,4-dioxane | 0.4 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(2-(4-fluoro-2-methoxyphenyl)piperazin-4-yl)-3-methyl-6-(4-pyridyl)-3H-pyrimidin-4-one dihydrochloride | 260 mg | Cl.Cl.FC1=CC(=C(C=C1)C1NCCN(C1)C1=NC(=CC(N1C)=O)C1=CC=NC=C1)OC | InChI=1S/C21H22FN5O2.2ClH/c1-26-20(28)12-17(14-5-7-23-8-6-14)25-21(26)27-10-9-24-18(13-27)16-4-3-15(22)11-19(16)29-2;;/h3-8,11-12,18,24H,9-10,13H2,1-2H3;2*1H
